### PR TITLE
fix(init/meta/converter/interactive): Do not ignore errors in `for` and `find`

### PR DESCRIPTION
**Pull request by eric-wieser**
An example of the type of code that used to work and now fails:
```lean
import algebra.ring

example {a b c : ℕ} : (a * b) * c = (a * b) * c :=  begin
  conv {
    for (_ * _) [1] {
      rw this_isnt_a_lemma,  -- no error message?
    },
  },
end

example {a b c : ℕ} : (a * b) * c = (a * b) * c :=  begin
  conv {
    find (_ * _) {
      rw this_isnt_a_lemma,  -- no error message?
    },  -- error: pattern not found (not true!)
  },
end
```
Without this PR, users like me get no information on why their tactic failed, which is a very frustrating experience.

The problem here is that `ext_simplify_core` ignores all failures in its `pre` and `post` arguments - failures are treated as "there was nothing to simplify here, move on to the next one". In `find` and `for`, we need to distinguish the cases of failing due to the pattern not matching and failuring due to an error in the user-provided tactic.

This PR adds two new tactic primitives, `tactic.capture` and `tactic.unwrap`, inspired by the python functions [from the `trio-outcome` package](https://outcome.readthedocs.io/en/latest/api.html) with the same name. `capture` can be used to run the user-provided tactic and keep track of any errors that occured. `unwrap` is then used to re-throw the error once `ext_simplify_core` is done.

CI run: https://github.com/eric-wieser/lean/actions/runs/297777454 (This repo isn't set up to run CI on PRs, so that's the best I can do.)

---

An alternative that I deliberately avoided would be to change  `ext_simplify_core`. This would be an API change, making the result type of the `pre` and `post` arguments `tactic (option ...)` instead of `tactic ...`, where a result of `none` would have the semantics currently occupied by `tactic.failed`. I didn't want to do this because:
* It's written in C++
* It requires an API change that would require adjusting every single caller of `ext_simplify_core`. In its simplest form, this would mean replacing `guard p, ...` calls with `if not p then return none else ...`. Great care would need to be taken to work out which failures should become `none` and which ones shouldn't.

### CODE REVIEW

File: library/init/meta/converter/interactive.lean [hunk 1]
```diff
@@ -94,20 +94,37 @@ meta def for (p : parse parser.pexpr) (occs : parse (list_of small_nat)) (c : it
...
+              st ← tactic.read,
+              return (success (n+1) st, e, none, tt)
+       | (exception _ _ _) := tactic.failed
+       end)
+     (λ a s r p e, tactic.failed)
+     r lhs,
+  (λ s, match found with
+  | (success r s') :=  (success r s)
+  | (exception f p s') := (exception f p s)
+  end),
```
Comment (eric-wieser) [inline library/init/meta/converter/interactive.lean:126]: This seems dumb, I just don't know what I'm doing

**Comment by eric-wieser** [comment]
CI run is here: https://github.com/eric-wieser/lean/actions/runs/295921664

File: library/init/meta/converter/interactive.lean [hunk 2]
```diff
@@ -30,6 +30,7 @@ open lean
 open lean.parser
 open interactive
 open interactive.types
+open tactic_result
```
Comment (eric-wieser) [inline library/init/meta/converter/interactive.lean:33]: I can't quite work out why the `success` and `exception` below don't resolve to `tactic_result.success` and `tactic_result.exception`.

File: library/init/meta/converter/interactive.lean [hunk 3]
```diff
@@ -94,20 +95,37 @@ meta def for (p : parse parser.pexpr) (occs : parse (list_of small_nat)) (c : it
...
+       | (success n s') :=
+         do matched ← (tactic.match_pattern pat e >> return tt) <|> return ff,
+            guard matched,
+            if n ∈ occs then 
+              (λ s,
+                match (c.convert e r) s with
+                | (success r s')     := success (success (n+1) s', r.fst, some r.snd, tt) s'
+                | (exception f p s') := success (exception f p s', e,     none,       tt) s'
+                end
+              )
```
Comment (eric-wieser) [inline library/init/meta/converter/interactive.lean:116]: I can't help feeling there's a better way to do this - the success path is trivial to write with a `return`, I just can't work out how to get the failure details using `<|>` or similar.

File: library/init/meta/converter/interactive.lean [hunk 4]
```diff
@@ -94,20 +95,37 @@ meta def for (p : parse parser.pexpr) (occs : parse (list_of small_nat)) (c : it
...
+            else do
+              st ← tactic.read,
+              return (success (n+1) st, e, none, tt)
+       | (exception _ _ _) := tactic.failed
+       end)
+     (λ a s r p e, tactic.failed)
+     r lhs,
+  (λ s, match found with
+  | (success r s') :=  (success r s)
+  | (exception f p s') := (exception f p s)
```
Comment (eric-wieser) [inline library/init/meta/converter/interactive.lean:126]: This is wrong and should be
```suggestion
  | (exception f p s') := (exception f p s')
```
so that the state in the error message is where the error occurred.

**Comment by eric-wieser** [comment]
Perhaps it's worth introducing these two helpers,
```lean
-- capture the result of a tactic
meta def capture {α : Type*} (t : tactic α) : tactic (tactic_result α) :=
λ s, match t s with
| (success r s') := success (success r s') s'
| (exception f p s') := success (exception f p s') s'
end

-- release a captured result
meta def release {α : Type*} (t : tactic_result α) : tactic α :=
match t with
| (success r s') := return r
| e := λ s, e
end
```
which I can then use for both `for` and `find`:
```lean
meta def find (p : parse parser.pexpr) (c : itactic) : conv unit :=
do (r, lhs, _) ← tactic.target_lhs_rhs,
   pat ← tactic.pexpr_to_pattern p,
   s   ← simp_lemmas.mk_default, -- to be able to use congruence lemmas @[congr]
   st ← tactic.read,
   (found, new_lhs, pr) ← tactic.ext_simplify_core
     (success ff st)  -- loop counter, and whether the conversion tactic failed
     {zeta := ff, beta := ff, single_pass := tt, eta := ff, proj := ff,
      fail_if_unchanged := ff, memoize := ff}
     s
     (λ u, return u)
     (λ found s r p e,
       match found with
       | (success f s') := do
         guard (not f),
         matched ← (tactic.match_pattern pat e >> return tt) <|> return ff,
         guard matched,
         res ← capture (c.convert e r),
         -- If an error occurs in conversion, capture it; `ext_simplify_core` will not
         -- propagate it.
         match res with
         | (success r s')     := return (success tt s',    r.fst, some r.snd, tt)
         | (exception f p s') := return (exception f p s', e,     none,       tt)
         end
       | (exception _ _ _) := tactic.failed
       end)
     (λ a s r p e, tactic.failed)
     r lhs,
  found ← release found,
  when (not found) $ tactic.fail "find converter failed, pattern was not found",
  conv.update_lhs new_lhs pr

meta def for (p : parse parser.pexpr) (occs : parse (list_of small_nat)) (c : itactic) : conv unit :=
do (r, lhs, _) ← tactic.target_lhs_rhs,
   pat ← tactic.pexpr_to_pattern p,
   s   ← simp_lemmas.mk_default, -- to be able to use congruence lemmas @[congr]
   st ← tactic.read,
   (found, new_lhs, pr) ← tactic.ext_simplify_core
     (success 1 st)  -- loop counter, and whether the conversion tactic failed
     {zeta := ff, beta := ff, single_pass := tt, eta := ff, proj := ff,
      fail_if_unchanged := ff, memoize := ff}
     s
     (λ u, return u)
     (λ i s r p e,
       -- if a previous conversion failed, then skip all subsequent conversions
       match i with
       | (success n s') :=
         do matched ← (tactic.match_pattern pat e >> return tt) <|> return ff,
            guard matched,
            if n ∈ occs then do
              res ← capture (c.convert e r),
              -- If an error occurs in conversion, capture it; `ext_simplify_core` will not
              -- propagate it.
              match res with
              | (success r s')     := return (success (n+1) s', r.fst, some r.snd, tt)
              | (exception f p s') := return (exception f p s', e,     none,       tt)
              end
            else do
              st ← tactic.read,
              return (success (n+1) st, e, none, tt)
       | (exception _ _ _) := tactic.failed
       end)
     (λ a s r p e, tactic.failed)
     r lhs,
  -- Re-throw any error captured inside `ext_simplify_core`
  release found,
  conv.update_lhs new_lhs pr
```

File: library/init/meta/tactic.lean [hunk 5]
```diff
@@ -270,6 +270,34 @@ meta def decorate_ex (msg : format) (t : tactic α) : tactic α :=
...
+If the previous result was an exception, this "rethrows" the exception as if it came
+from where it originated.
+
+`do r ← capture t, unwrap r` is identical to `t`, but allows for intermediate tactics to be inserted.
+-/
+meta def unwrap {α : Type*} (t : tactic_result α) : tactic α :=
+match t with
+| (success r s') := return r
+| e := λ s, e
+end
```
Comment (gebner) [inline library/init/meta/tactic.lean:299]:
```suggestion
λ _, t
```

Then the following both work:
```lean
-- works in 3.21
example {a b : ℕ} : ∃ x, x * a = a * x :=  begin
  existsi _,
  conv {
    rw nat.mul_comm b a,
  },
end

-- fails in 3.21
example {a b : ℕ} : ∃ x, x * a = a * x :=  begin
  existsi _,
  conv {
    for (_ * _) [1] {
      rw nat.mul_comm b a,
    },
  },
end
```

File: library/init/meta/tactic.lean [hunk 6]
```diff
@@ -270,6 +270,34 @@ meta def decorate_ex (msg : format) (t : tactic α) : tactic α :=
 @[inline] meta def read : tactic tactic_state :=
 λ s, success s s
 
+/--
+`capture t` acts like `t`, but succeeds with a result containing either the returned value
+or the exception.
```
Comment (gebner) [inline library/init/meta/tactic.lean:275]:
```suggestion
or the exception.
The tactic state is modified in either case.
```

**Comment by gebner** [comment]
> CI run: eric-wieser/lean/actions/runs/297777454 (This repo isn't set up to run CI on PRs, so that's the best I can do.)

I've invited you as a collaborator on this repo.

File: library/init/meta/tactic.lean (hunk 5 above)
Comment (eric-wieser) [reply library/init/meta/tactic.lean:299]: That sounds wrong to me - the success tactic_state shouldn't be propagated, otherwise it rolls back any work done between capture and unwrap. Thanks for the examples, I'll have a go with them.

Comment (eric-wieser) [reply library/init/meta/tactic.lean:299]: Ugh, your suggestion does seem to be the only way to fix those examples, but I have a really hard time believing it's correct behavior - that looks like a much more insidious bug in `ext_simplify_core` that is discarding tactic_state even in successful cases.

Comment (eric-wieser) [reply library/init/meta/tactic.lean:299]: To be clear - what your suggestion does is completely restore the state to how it was before, which results in all the `tactic_state` changes made between callbacks within `ext_simplify_core` being reverted, even when the callbacks are successful.

Comment (gebner) [reply library/init/meta/tactic.lean:299]: Yes, that is precisely the point.  Nobody except us is modifying the tactic state, in particular nothing is happening between callbacks (fingers crossed).  And `ext_simplify_core` would just discard the tactic state at the end.  So we need to thread it through manually.

Comment (eric-wieser) [reply library/init/meta/tactic.lean:299]: > in particular nothing is happening between callbacks (fingers crossed).

I got the feeling from reading the code that the type of thing performed by `simp only` would go on behind the scenes between callbacks. Perhaps we've explicitly disabled every one of these simplifications.

> And ext_simplify_core would just discard the tactic state at the end. 

Is it supposed to do that? My understanding is that it is trying to preserve it, but seems to only be preserving part of it

Comment (eric-wieser) [reply library/init/meta/tactic.lean:299]: Ah, right - I understand now: 

https://github.com/leanprover-community/lean/blob/42713125a2270a07d7034abfb45af786fb5d8746/src/library/tactic/simplify.cpp#L1284

The state is completely (and deliberately) reset at the end of the loop

Comment (gebner) [reply library/init/meta/tactic.lean:300]: I don't think too much thought went into the design of `ext_simplify_core`.  To be fair, nobody had much experience with meta code back then.
